US08049016B2
Synthesis of 2-(1-((2,2-difluorocyclopropyl)methyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylic acid
Following the procedure as describe in Preparation 14, making variations as required to replace ethyl 2-(3-((2,2-difluorocyclopropyl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate with ethyl 2-(1-((2,2-difluorocyclopropyl)methyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylate, the title compound was obtained as a colourless solid in 18% yield: mp 220-222° C.; 1H NMR (300 MHz, DMSO-d6) δ 13.59 (br, 1H), 7.35 (dd, J=13.9, 7.7 Hz, 1H), 7.17 (d, J=7.7 Hz, 1H), 7.07 (dd, J=18.9, 9.0 Hz, 2H), 5.14 (s, 2H); 13C NMR (75 MHz, DMSO-d6) δ 162.9 (d), 153.2, 136.3 (d), 130.7 (d), 123.9 (d), 115.8 (d), 115.3 (d), 47.7 (d); MS (ES+) m/z 317.1 (M+1).

reactant | ethyl 2-(3-((2,2-difluorocyclopropyl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate | FC1(C(C1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)OCC)=O)F | C14H17F2N3O3S
reactant | ethyl 2-(1-((2,2-difluorocyclopropyl)methyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylate | FC1(C(C1)CN1N=CN(C1=O)C=1SC(=C(N1)C)C(=O)OCC)F | C13H14F2N4O3S
product | 2-(1-((2,2-difluorocyclopropyl)methyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylic acid | 18% yield | FC1(C(C1)CN1N=CN(C1=O)C=1SC(=C(N1)C)C(=O)O)F | C11H10F2N4O3S
